US06841698B2
Ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(diethoxymethyl)phosphinate (Intermediate to the Compound According to the Example 8)
To a solution of ethyl 3-[(diethoxymethyl)(ethoxy)phosphoryl]-2-fluorobutanoate (1.8 g, 5.5 mmol) in ethanol (3 mL) was added concentrated ammonium hydroxide (14.8 M, 0.5 mL, 7.4 mmol). The solution was stirred for 24 h at 40° C. and then evaporated to give 1.6 g (97%) of a diastereomeric mixture of ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(diethoxymethyl)phosphinate as a clear oil. 1H NMR (400 MHz, CDCl3) δ 5.7-6.7 (m, 2H), 4.9-5.5.6 (m, 1H), 4.7-4.8 (m, 1H), 4.1-4.4 (m, 2H), 3.8-4.0 (m, 4H), 2.8-3.0 (m, 1H), 1.2-1.4 (m, 12H).

reactant | ethyl 3-[(diethoxymethyl)(ethoxy)phosphoryl]-2-fluorobutanoate | 5.5 mmol, 1.8 g | C(C)OC(P(=O)(OCC)C(C(C(=O)OCC)F)C)OCC | C13H26FO6P
reactant | ammonium hydroxide | 7.4 mmol, 14.8 M, 0.5 mL | [OH-].[NH4+]
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | Ethyl 3-amino-2-fluoro-1-methyl-3-oxopropyl(diethoxymethyl)phosphinate | 1.6 g, 97% | NC(C(C(C)P(OCC)(=O)C(OCC)OCC)F)=O | C11H23FNO5P
